US07151105B2
Step 3: 1,3-dimethyl-5-(4-methylpiperazin-1-yl)-1H-pyrazole-4-carbaldehyde
To a solution of 5-chloro-1,3-dimethyl-1H-pyrazole-4-carbaldehyde (25.4 g, 0.16 mol) in HMPA (25 mL) and water (25 mL) was added 1-methylpiperazine (40 g, 0.4 mol, 2.5 equiv), and the mixture was heated at 120–125° C. for 25 h. When the reaction was completed, the reaction mixture was poured into water (500 mL), and potassium carbonate was added to make the medium strongly alkaline. The mixture was extracted with dichloromethane (5×100 mL). The combined organic extracts were washed twice with water and dried with sodium sulfate, and the solvent evaporated. The residue was purified chromatographically on silica gel with gradient elution from dichloromethane to methanol, affording 10.2 g (29%) of the title product. Satisfactory C,H,N-analysis was obtained. 1H NMR (400 MHz, DMSO-d6): δ 2.23 (s, 3H), 2.26 (s, 3H), 2.44 (m, 4H), 3.16 (m, 4H), 3.59 (s, 3H), 9.88 (s, 1H). LC-MS (API-ES) calcd for C11H18N4O: 222.15, found (M+H+): 223.1 m/z.

reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.16 mol, 25.4 g | ClC1=C(C(=NN1C)C)C=O | C6H7ClN2O
reactant | 1-methylpiperazine | 0.4 mol, 40 g, 2.5 equiv | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | HMPA | 25 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | water | 25 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 1,3-dimethyl-5-(4-methylpiperazin-1-yl)-1H-pyrazole-4-carbaldehyde | 10.2 g, 29% | CN1N=C(C(=C1N1CCN(CC1)C)C=O)C | C11H18N4O
